US06313311B1
a) 4-(3H-Inden-1-yl)-1H-imidazole
To a stirred solution of 1-(N,N-dimethylsulfamoyl)-1H-imidazole (1.9 g, prepared according to Chadwick, D. J. and Ngochindo, R. I., J. Chem. Soc., Perkin Trans. I 1984, 481) in dry tetrahydrofuran (90 ml) at −70° C. under nitrogen, is added dropwise 2.5 M butyllithium in hexane (5.1 ml). After 30 minutes tert-butyldimethylsilyl chloride (2.0 g) in dry tetrahydrofuran (5 ml) is added and the mixture is allowed to warm to 25° C. After 1.5 hours the mixture is again cooled to −70° C. and treated with 2.5 M butyllithium in hexane (5.3 ml). After 30 minutes, 1-indanone (2.1 g) in dry tetrahydrofuran (5 ml) is added and the mixture is allowed to warm to room temperature. The reaction mixture is then quenched with saturated Na2CO3 solution (2 ml), and the solvent is removed under reduced pressure. The residue is dissolved in methylene chloride and washed with water, dried with sodium sufate and evaporated to dryness under reduced pressure. The bis-protected intermediate is refluxed with 2 N hydrochloric acid (200 ml) for 2 hours. The cooled solution is made basic by ammonium hydroxide solution, and extracted with methylene chloride. The organic layer is washed with water, dried with sodium sulfate and the solvent removed under reduced pressure. The crude product is purified by flash chromatography using methylene chloride-methanol as eluent. The product is converted to the hydrochloride salt in ethyl acetate-ethanol solution, m.p. 232-240° C.

reactant | 1-(N,N-dimethylsulfamoyl)-1H-imidazole | 1.9 g | CN(S(=O)(=O)N1C=NC=C1)C | C5H9N3O2S
reactant | butyllithium | 2.5 M | C(CCC)[Li]
reactant | tert-butyldimethylsilyl chloride | 2.0 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | butyllithium | 2.5 M | C(CCC)[Li]
reactant | 1-indanone | 2.1 g | C1(CCC2=CC=CC=C12)=O | C9H8O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | hexane | 5.1 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | hexane | 5.3 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(3H-Inden-1-yl)-1H-imidazole | C1(=CCC2=CC=CC=C12)C=1N=CNC1 | C12H10N2
